US08557805B2
Ethyl[2-(7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetate
To a mixed solution of 7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carbothioamide (2.8 g), ethyl 2-butynoate (1.8 mL), tetrahydrofuran (40 mL), and toluene (60 mL), tri-n-butylphosphine (2.2 mL) was added under an argon atmosphere at room temperature, and the mixture was stirred at 40° C. for 3 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=25:75 to 60:40, volume ratio) to give the title compound (3.05 g, yield 84%) as a pale-yellow amorphous solid.

reactant | 7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carbothioamide | 2.8 g | C(C)C=1C=C(C=C2C=C(NC12)C(N)=S)OC=1C=NC(=CC1)S(=O)(=O)C | C17H17N3O3S2
reactant | ethyl 2-butynoate | 1.8 mL | C(C#CC)(=O)OCC | C6H8O2
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | tri-n-butylphosphine | 2.2 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl[2-(7-ethyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetate | 3.05 g, yield 84% | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)S(=O)(=O)C)CC)=O | C23H25N3O5S2
